US07741321B2
A. 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid
A mixture of benzo[1,3]dioxole-5-acetonitrile (5.10 g, 31.7 mmol), 1-bromo-2-chloro-ethane (9.00 mL, 109 mmol), and benzyltriethylammonium chloride (0.181 g, 0.795 mmol) was heated at 70° C. and then 50% (wt./wt.) aqueous sodium hydroxide (26 mL) was slowly added to the mixture. The reaction was stirred at 70° C. for 18 hours and then heated at 130° C. for 24 hours. The dark brown reaction mixture was diluted with water (400 mL) and extracted once with an equal volume of ethyl acetate and once with an equal volume of dichloromethane. The basic aqueous solution was acidified with concentrated hydrochloric acid to pH less than one and the precipitate filtered and washed with 1 M hydrochloric acid. The solid material was dissolved in dichloromethane (400 mL) and extracted twice with equal volumes of 1 M hydrochloric acid and once with a saturated aqueous solution of sodium chloride. The organic solution was dried over sodium sulfate and evaporated to dryness to give a white to slightly off-white solid (5.23 g, 80%) ESI-MS m/z calc. 206.1. found 207.1 (M+1)+. Retention time of 2.37 minutes. 1H NMR (400 MHz, DMSO-d6) δ 1.07-1.11 (m, 2H), 1.38-1.42 (m, 2H), 5.98 (s, 2H), 6.79 (m, 2H), 6.88 (m, 1H), 12.26 (s, 1H).

reactant | benzo[1,3]dioxole-5-acetonitrile | 31.7 mmol, 5.10 g | O1COC2=C1C=CC(=C2)CC#N | C9H7NO2
reactant | 1-bromo-2-chloro-ethane | 109 mmol, 9.00 mL | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 26 mL | [OH-].[Na+]
reactant | water | 400 mL | O | H2O
catalyst | benzyltriethylammonium chloride | 0.795 mmol, 0.181 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid | 5.23 g, 80% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
